US07388061B2
To the mixture of 2.5 g sodium borohydride, 0.05 g sodium hydroxide, and 25 ml water, was added dropwise the solution of 14.2 g 3,5-heptandione in 30 ml methanol at 0-10° C. Upon completion, the solvent was removed by reduced pressure distillation, and the residue was continuously extracted with 40 ml ethyl acetate for 15 hours. The solvent was removed to give 3,5-heptandiol as a white solid with the yield 90%, m.p. 60-65° C. IR spectrum had a strong absorption peak at 3400 cm−1, but had no absorption peak at about 1700 cm−1.

reactant | sodium borohydride | 2.5 g | [BH4-].[Na+]
reactant | sodium hydroxide | 0.05 g | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
reactant | 3,5-heptandione | 14.2 g | CCC(CC(CC)=O)=O | C7H12O2
solvent | methanol | 30 ml | CO | CH4O
product | 3,5-heptandiol | yield 90% | CCC(CC(CC)O)O | C7H16O2
